US07276518B2
4-Dimethylamino-4-phenyl-cyclohexanone oxime (11 g) was dissolved in methanol (200 ml) and diluted with 5M NaOH (200 ml). Devarda alloy (30 g) was added in portions to this mixture. The reaction temperature here was between 50-60° C. 15 minutes after completion of the addition, the mixture was diluted with water (150 ml), methanol was removed in vacuo, and the aqueous solution was extracted with ether (5×50 ml). The combined extracts were dried over Na2SO4 and concentrated. N,N-Dimethyl-1-phenylcyclohexane-1,4-diamine was obtained as a yellow oil (10.0 g).

reactant | 4-Dimethylamino-4-phenyl-cyclohexanone oxime | 11 g | CN(C1(CCC(CC1)=NO)C1=CC=CC=C1)C | C14H20N2O
solvent | methanol | 200 ml | CO | CH4O
solvent | NaOH | 5M, 200 ml | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | N,N-Dimethyl-1-phenylcyclohexane-1,4-diamine | CN(C1(CCC(CC1)N)C1=CC=CC=C1)C | C14H22N2
